US07253282B2
A solution of 200 mg (0.36 mmol) of trans 2,4-dimethyl-thiazole-5-sulfonic acid [4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amide in 5 mL of THF was cooled to −78° C. and treated dropwise with 0.25 mL of a 1.6 M solution of nBuLi in hexane. The solution was warmed to −30° C., treated with 1 mL (1.2 mmol) of ethyliodide, allowed to reach RT and then refluxed for 2 hrs. Distribution between a saturated aqueous solution of NH4Cl and Et2O, drying of the combined organic phases over Na2SO4 and evaporation of the solvent gave a residue that was redissolved in THF and treated with an excess of TBAF. Distribution between a saturated aqueous solution of NH4Cl and Et2O, drying of the combined organic phases over Na2SO4, evaporation of the solvent and chromatography on silicagel with heptane/EtOAc 2:1 yielded 20 mg (11%) of trans 4-methyl-2-propyl-thiazole-5-sulfonic acid ethyl-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amide as a yellow oil, MS: 497 (M+H)+.

reactant | trans 2,4-dimethyl-thiazole-5-sulfonic acid [4-(2,2,2-trifluoro-1-triethylsilanyloxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amide | 0.36 mmol, 200 mg | FC(C(C(F)(F)F)(O[Si](CC)(CC)CC)[C@@H]1CC[C@H](CC1)NS(=O)(=O)C1=C(N=C(S1)C)C)(F)F | C20H32F6N2O3S2Si
reactant | nBuLi | [Li]CCCC
reactant | ethyliodide | 1.2 mmol, 1 mL | C(C)I | C2H5I
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | trans 4-methyl-2-propyl-thiazole-5-sulfonic acid ethyl-[4-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethyl-ethyl)-cyclohexyl]-amide | 20 mg, 11% | C(C)N(S(=O)(=O)C1=C(N=C(S1)CCC)C)[C@@H]1CC[C@H](CC1)C(C(F)(F)F)(C(F)(F)F)O | C18H26F6N2O3S2
